US04830470
A finely powdered mixture was prepared from 2.2 g of 2-(trans-4-pentylcyclohexyl)-1-(2,3-dicyano-4-butyloxyphenyl)ethane, 1.4 g of anhydrous aluminum chloride and 0.3 g of sodium chloride and this mixture was heated to 150° C. on an oil-bath for 40 minutes under anhydrous conditions. The cooled mixture was treated with 250 ml of water and extracted three times with 50 ml of dichloromethane each time. The combined organic phases were washed with 250 ml of water, dried over magnesium sulphate and concentrated. Chromatography of the residue on silica gel with toluene/ethyl acetate (vol. 4:1) gave 0.6 g of 2,3-dicyano-4-[2-(trans-4-pentylcyclohexyl)ethyl]phenol; m.p. 100°-102° C.

reactant | 2-(trans-4-pentylcyclohexyl)-1-(2,3-dicyano-4-butyloxyphenyl)ethane | 2.2 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCC1=C(C(=C(C=C1)OCCCC)C#N)C#N | C25H36N2O
reactant | aluminum chloride | 1.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium chloride | 0.3 g | [Cl-].[Na+]
solvent | water | 250 ml | O | H2O
product | 2,3-dicyano-4-[2-(trans-4-pentylcyclohexyl)ethyl]phenol | 0.6 g | C(#N)C1=C(C=CC(=C1C#N)CC[C@@H]1CC[C@H](CC1)CCCCC)O | C21H28N2O
